US07160887B1
A dichloromethane (150 ml) solution of 1 N boron trifluoride was dropwise added to a dichloromethane (50 ml) solution of 1-(3-methoxyphenyl)-1-methylethylamine (8.12 g, 49.1 mmols), at −78° C. This was stirred at the temperature for 30 minutes, and then reacted at room temperature for 1 hour. Methanol was added to the reaction mixture to stop the reaction, and the mixture was then concentrated under reduced pressure. To the residue, added were tetrahydrofuran (100 ml), triethylamine (14.9 g, 147 mmols) and di-tert-butyl dicarbonate (10.7 g, 49 mmols). The resulting mixture was heated under reflux for 2 hours. This was cooled, then poured into water, and extracted with ethyl acetate. The extract was washed with brine, and then dried with anhydrous magnesium sulfate. This was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography. An oil of tert-butyl[1-(3-hydroxyphenyl)-1-methylethyl]carbamate (8.5 g, 68%) was obtained.

reactant | boron trifluoride | 1 N | B(F)(F)F | BF3
reactant | 1-(3-methoxyphenyl)-1-methylethylamine | 49.1 mmols, 8.12 g | COC=1C=C(C=CC1)C(C)(C)N | C10H15NO
reactant | triethylamine | 147 mmols, 14.9 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 49 mmols, 10.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | Methanol | CO | CH4O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | tert-butyl[1-(3-hydroxyphenyl)-1-methylethyl]carbamate | 8.5 g, 68% | C(C)(C)(C)OC(NC(C)(C)C1=CC(=CC=C1)O)=O | C14H21NO3
